US06887889B2
To a solution of (3,4-difluorophenyl)-carbamic acid-tert-butyl ester (2.42 g, 10.55 mmol) in DMF (80 mL) at 0° C. under Ar was added NaH (60% dispersion in mineral oil, 0.805 g, 21 mmol, 2 eq.). The mixture was stirred at 0° C. for 30 min and then allyl iodide (6.42 mL, 53 mmol, 5 eq.) was added over 5 min. The mixture was warmed to room temperature and stirred for 2 h. The mixture was then diluted with EtOAc (100 mL) and washed with saturated aqueous NaHCO3 (100 mL). The aqueous phase was washed with EtOAc (3×60 mL) and the combined organic extracts were washed with saturated aqueous NaCl (100 mL), dried over Na2SO4, filtered and concentrated to give a brown oil which was purified by flash column chromatography by eluting with 10% EtOAc/hexanes to give allyl-(3,4-difluorophenyl)-carbamic acid-tert-butyl ester as a clear oil (2.238 g, 75%).). 1H NMR (300 MHz, CDCl3): δ 7.18 (m, 3H), 6.00 (m, 1H), 5.30 (m, 2H), 4.30 (m, 2H), 1.59 (s, 9H).

reactant | (3,4-difluorophenyl)-carbamic acid-tert-butyl ester | 10.55 mmol, 2.42 g | C(C)(C)(C)OC(NC1=CC(=C(C=C1)F)F)=O | C11H13F2NO2
reactant | NaH | 21 mmol, 0.805 g, 2 eq. | [H-].[Na+]
reactant | allyl iodide | 53 mmol, 6.42 mL, 5 eq. | C(C=C)I | C3H5I
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | allyl-(3,4-difluorophenyl)-carbamic acid-tert-butyl ester | 2.238 g, 75% | C(C)(C)(C)OC(N(C1=CC(=C(C=C1)F)F)CC=C)=O | C14H17F2NO2
